Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left arm pain
 
Major Surgical or Invasive Procedure:
I&D in ED, no cultures sent from initial I&D

 
History of Present Illness:
DATE:  ___     
TIME SEEN:  1pm

CHIEF COMPLAINT: left arm pain

HPI:
Mr. ___ is a ___ y/o patient with medical history significant
for IV drug use with recent relapse who presented to the ED on
___ with 3 days of worsening left arm pain, fullness and 1
day of redness spreading up his arm and was found to have an
abscess which was incised and drained in the emergency room.  
The
erythema did not decrease after two doses of vancomycin and
incision and drainage and so he was admitted for continued IV
antibiotics.

Mr. ___ states that he had been sober from IV drug use for 5
months but then relapsed about 1.5 weeks ago.  He used his left
antecubital site for injection.  ___ days ago this site became
painful with touch and with movement.  On ___ morning he 
noted
that this area had become swollen and more painful.  He found
redness of his skin extending from the antecubital area to the
axilla and his mother urged him to seek medical care.  He went 
to
urgent care where he was asked to go straight to the ED because
of the significant erythema.  

In the ED, vital signs on presentation at 5:50 pm on ___ were T
100.1, HR 98, BP 151/91, RR 16, SpO2 98% on RA.  Labs were
significant for WBC 9.3, 61.7% neutrophils, and a Cr of 1.2.  He
underwent bedside ultrasound and incision and drainage in the ED
with packing placed.  He received the following medications in
the ED:  vancomycin x 2 doses at 7pm and 7am, doxycycline 100 mg
PO at 11pm, hydromorphone 1 mg x 3, Benadryl 50 mg for sedation
prior to the I & D, home gabapentin and Xanax 2 mg, and a
nicotine patch.  The patient was initially kept in observation
but this morning his erythema had not improved and thus he was
admitted for continued IV atbx.

On interview on the floor, pt denies recent fevers, night sweats
or chills at home.  He thinks his arm pain has greatly improved
since the ED nurse removed the initial packing and repacked it
this morning.  He believes that the erythema has decreased both
in size and in intensity.

Mr. ___ had been sober for 5 months and is taking suboxone,
Adderall, Xanax, gabapentin, and wellbutrin that are prescribed
by an outside psychiatrist whose name he does not want to share
because he does not want the psychiatrist notified of his
relapse.  He had been feeling depressed and frustrated recently
due to difficulty getting a job and because two of his friends
recently died of overdose.  He thinks these feelings led him to
relapse.  He now wants to stay sober again on discharge and he
thinks the combination of medications prescribed by his
psychiatrist was helping him.  He has taken both cocaine and
heroin in the past 1.5 weeks, most recent dose was of heroin on
___ morning, ___. 

ROS:
Has a productive cough that is stable.  Denies nausea, dysuria,
but does endorse constipation.  This is typical for him at home
and he takes a stool softener.  No headache.  

 
Past Medical History:
PAST MEDICAL HISTORY:
- IVDU
- genital abscess in remote past
- panic attacks and situational anxiety

PAST SURGICAL HISTORY:
- I&D of genital abscess (subscrotal) under anesthesia when a
teenager, had already started using IV drugs at this time
 
Social History:
___
Family History:
FAMILY HISTORY:
- Mother has ___ disease and fibromyalgia
- father has sciatica
- uncle with neuropathy
- significant substance abuse in family history

 
Physical Exam:
DISCHARGE EXAM

OBJECTIVE:
VITAL SIGNS:
Tm 98.2, HR 71-99, BP 120s-130s/60s-80s, SpO2 99% RA, RR ___
PHYSICAL EXAM:
GEN:  well appearing young man, NAD
HEENT:  PERRL, EOMI, no scleral icterus or conjunctival
injection. Moist mucous membranes.  No posterior oropharyngeal
exudates.  No palpable cervical or supraclavicular LAD
CV:  RRR, there is a soft ___ murmur at the LLSB.  Radial pulses
2+ b/l
PULM:  CTAB no wheezing compared with yesterdays exam.  No
crackles.  No dyspnea.
ABD: soft, nondistended, nontender to palpation. NOrmal bowel
sounds.
EXT:  Left arm with incision 1 cm above the flexor surface of 
the
antecubital.  Packing extends out of it.  There is mild erythema
extending about 6 cm proximally toward axilla that continues to
improve in intensity and extent.  Outline was placed on ___ and
erythema is within these borders. No obvious streaking.  The 
area
of skin overlying the bicep and the abscess site is not
significantly tender to palpation.  There is no erythema distal
to the site.
NEURO:  A, O x 3. CN ___ are in tact.  Sensation to light touch
in tact distally over left fingertips, equal to sensation on
right.
PSYCH:  appropriate, makes good eye contact, answers questions
fully and appropriately. 
SKIN: no ___ lesions ___ nodes
 
Pertinent Results:
___ 07:00PM   ___ COMMENTS-GREEN TOP 
___ 07:00PM   LACTATE-0.9
___ 07:00PM   O2 SAT-57 CARBOXYHB-6*
___ 06:51PM   GLUCOSE-86 UREA N-13 CREAT-1.2 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-31 ANION GAP-14
___ 06:51PM   estGFR-Using this
___ 06:51PM   WBC-9.3 RBC-4.62 HGB-13.5* HCT-41.6 MCV-90 
MCH-29.2 MCHC-32.5 RDW-13.1 RDWSD-43.1
___ 06:51PM   NEUTS-61.7 ___ MONOS-6.2 EOS-1.5 
BASOS-0.3 IM ___ AbsNeut-5.71 AbsLymp-2.79 AbsMono-0.57 
AbsEos-0.14 AbsBaso-0.03
___ 06:51PM   PLT COUNT-167

LABS:
CBC:  WBC 8.2, Hb 13.4, Plt 161
BASIC/COMP:  Na 140, K 4.2, Cl 101, HCO3 28, BUN 11, Cr 1.0

MICRO:
- blood cultures:
     - ___: Staphylococcus, coag negative (prelim read)
     - ___: NGTD x 2
     - ___: NGTD x 2
- no cultures were sent from the abscess I&D in the ED
- abscess culture from ___ (after 2 days vancomycin): ___ 
9:09 pm ABSCESS      Source: antecub abscess. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

 
Brief Hospital Course:
ASSESSMENT AND PLAN:
___ y/o male with history of IV drug abuse, recently in remission
for 5 months but now with relapse over the past 1.5 weeks with
heroin and cocaine, presenting with an abscess proximal to the
left antecubital with surrounding cellulitis, did not improve
with 2 doses of vancomycin in the ED and now with one positive
blood culture for coagulase negative staph. 

1.  Antecubital abscess and cellulitis and questionable
bacteremia:  now s/p definitive source  control with I &D.  
Received 2 doses vancomcyin in ED, had not received any PO
antibiotics prior to treatment in the ED.  Cellulitis now
improving with continued packing of abscess and vancomycin. One
blood culture is positive for coagulase negative staph;  this is
from the ED prior to receiving antibiotics and only one set of
cultures was drawn.  Subsequent blood cultures are no growth to
date.  The coag negative staph could be a contaminant, but
because we only have one bottle prior to intiation of 
vancomcyin,
and because the patient has risk factors for staph bactermia due
to his IV drug use and abscess, infectious disease service was 
consulted.  They thought that the blood culture likely 
represented contaminant since the patient appears otherwise well 
and does not have symptoms consistent with bacteremia.  we had 
planned to do a TTE to evaluate for valvular vegetations but the 
patient insisted on leaving AMA.    No cultures were sent of the 
abscess
fluid from initial incision and drainage; we sent culture after 
2 days of vancomycin which shows only PMNs, no bacterial growth. 
He received 5 doses of vancomycin and refused the AM dose on 
___.  He was warned of the risks of leaving against medical 
advice and voiced his understanding of possible consequences 
including worsening illness, endocarditis and death.  His mother 
was consulted and agreed to help him pack the wound. We could 
not get a ___ because he was leaving AMA.  He was taught himself 
how to pack the wound, was discharged with wound care supplies 
bactrim to take BID through ___ for a total of 14 days and had 
contacted his PCP's office for follow up with NP for wound care 
and TTE as outpatient.  He was not discharged with any pain 
medication and will resume his suboxone. 

2.  ___:  Cr of 1.2 on presentation, no comparison in our 
system.
___ be due to not eating much in setting of heroin and cocaine
use vs. relative hypoperfusion due to opioids. 
- improved to 1.0 with 2L IVF

3.  Polysubstance use:  follows with an addiction psychiatrist,
has not been taking suboxone since he relapsed.  Wants to go 
back
on suboxone after discharge from hospital.  
- gave PO Dilaudid for pain while inpatient
- pt seen by SW consult, was given names of rehab,
therapists
- pt does not wish to share name of his addiction consult 
because
he wants to hold the information of his relapse from him.
However, will encourage pt to share this information w/ his
provider as this can affect the psychiatrist's treatment plan.
- discussed screening ___ C and HIV tests with patient but he 
refused AM labs on day of discharge.
- will restart suboxone after leaving AMA

Pt was encouraged to continue to seek help through therapy. He 
shows insight in to his disease but still makes impulsive 
decisions and has poor coping skills.  He voiced desire to never 
use IV drugs again.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 2 mg PO TID:PRN anxiety 
2. Amphetamine-Dextroamphetamine XR 50 mg PO DAILY 
3. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
4. Gabapentin 600 mg PO TID 
5. BuPROPion (Sustained Release) 200 mg PO QAM 

 
Discharge Medications:
1. ALPRAZolam 2 mg PO TID:PRN anxiety 
2. Amphetamine-Dextroamphetamine XR 50 mg PO DAILY 
3. BuPROPion (Sustained Release) 200 mg PO QAM 
4. Gabapentin 600 mg PO TID 
5. Bisacodyl 10 mg PO DAILY:PRN constipation 
RX *bisacodyl 5 mg 1 tablet(s) by mouth daily Disp #*20 Tablet 
Refills:*0
6. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
will not prescribe as pt obtains this through o/p psychiatrist 
7. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 12 Days 
next dose in evening of ___ 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*25 Tablet Refills:*0
8. wound care materials
sterile packing gauze
sterile saline
4x4 gauze to overlay wound with tape

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abscess of the left arm
cellulitis
positive blood culture for coagulase negative Staphylococcus 
aureus

 
Discharge Condition:
ambulatory, alert and oriented x 3

 
Discharge Instructions:
___,

You were admitted for an abscess in your left arm that is likely 
due to your IV drug use which exposes you to harmful bacteria 
that get into the body through the blood stream.  This infection 
spread to the surrounding skin causing an infection of the skin 
and soft tissue called cellulitis.  You also had one blood 
culture that was positive for a bacteria that can be found on 
the skin.  This may have been a contaminant of the blood culture 
but could have also been indicative of a true infection of your 
blood stream.  The infectious disease experts think that it was 
probably a contaminant and so we will treat you for the abscess 
and cellulitis which can be treated with oral antibiotics.  
Fortunately, your blood cultures after you got antibiotics have 
been negative so far which indicates that either the original 
blood culture that grew bacteria was contaminated or that the 
infection cleared with the antibiotics.  To be safe, we wanted 
to get an echocardiogram to look at your heart valves to make 
sure that bacteria did not settle on the heart valve.  However, 
you want to leave early, which is against medical advice.  

YOU ARE LEAVING AGAINST MEDICAL ADVICE. You understand the risks 
of leaving prematurely before we have the final information from 
the echo which would allow us to make a more informed decision 
about switching from IV to oral antibiotics. YOU HAVE VOICED 
UNDERSTANDING THAT LEAVING AGAINST MEDICAL ADVICE CAN LEAD TO 
WORSENING INFECTION, ENDOCARDITIS, AND EVEN DEATH.  Despite this 
understanding, you still choose to leave against medical advice 
and thus we will treat your cellulitis and abscess with Bactrim 
through ___.  You should have someone help you to pack the 
abscess until it has closed, twice a day.  You were taught how 
to pack the wound and should do this with the help of your 
mother and sister. You should schedule an appointment with your 
PCP for the next ___ days.  

You were given information about resources to stop using IV 
drugs which we highly encourage you to take advantage of.  It is 
clear that you want to stop and you will need help, as do all 
people with the disease of addiction.  Please use these 
resources and ask your PCP if you need further resources to work 
on addiction and coping mechanisms.

please resume all of the medications prescribed to you by your 
psychiatrist and I highly encourage you to be honest with him so 
that he can properly treat you and better understand the risk 
factors that put you at risk for relapse.  
 
Followup Instructions:
___